US07888513B2
Under an argon atmosphere, a mixture of benzyl 3-phenylpropionate (1.5 mmol), (S)-2-(N-methylindol-3-ylmethyl)-2-aminoethanol (1.5 mmol), Zn4(OCOCF3)6O (0.15 mmol) and chlorobenzene (2.5 mL) was heated under reflux for 18 hours. From the resulting solution, the solvent was removed using an evaporator, and the residues were purified by silica gel column chromatography to give (S)-4-(N-methylindol-3-ylmethyl)-2-(2-phenylethyl)-1,3-oxazoline in 76% yield. The compound was identified by comparison with physical property data of the known compound.

reactant | benzyl 3-phenylpropionate | 1.5 mmol | C1(=CC=CC=C1)CCC(=O)OCC1=CC=CC=C1 | C16H16O2
reactant | (S)-2-(N-methylindol-3-ylmethyl)-2-aminoethanol | 1.5 mmol | CN1C=C(C2=CC=CC=C12)C[C@@H](CO)N | C12H16N2O
solvent | chlorobenzene | 2.5 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (S)-4-(N-methylindol-3-ylmethyl)-2-(2-phenylethyl)-1,3-oxazoline | 76% yield | CN1C=C(C2=CC=CC=C12)C[C@@H]1N=C(OC1)CCC1=CC=CC=C1 | C21H22N2O
